US05807880
Using α-(9H-fluoren-2-yl)-3-chlorobenzyl alcohol and imidazole as starting compounds, the process of Example 1 was repeated to obtain 1-[3-chloro-α-(9H-fluoren-2-yl)benzyl]-1H-imidazole.

reactant | α-(9H-fluoren-2-yl)-3-chlorobenzyl alcohol | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C1=CC(=CC=C1)Cl)O | C20H15ClO
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 1-[3-chloro-α-(9H-fluoren-2-yl)benzyl]-1H-imidazole | ClC=1C=C(C(C2=CC=3CC4=CC=CC=C4C3C=C2)N2C=NC=C2)C=CC1 | C23H17ClN2
